** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/dac/dac_sw_4state_A/xschem/dac_sw_4state_A.sch
.subckt dac_sw_4state_A VDD s[1] s[0] VSS CI VSAM VBP VBN VRST
*.PININFO s[1:0]:I VDD:B VSS:B VRST:I CI:B VSAM:I VBP:I VBN:I
xBP VDD VSS BP VBP CI BPN dac_sw_1state_A
xBN VDD VSS BN VBN CI BNN dac_sw_1state_A
xRST VDD VSS RST VRST CI RSTN dac_sw_1state_A
xSAM VDD VSS SAM VSAM CI SAMN dac_sw_1state_A
xNBP VDD VSS s[1] s[0] BPN gate_nand_x1
xBP1 VDD BPN BP VSS gate_inv_x1
xBN1 VDD BNN BN VSS gate_inv_x1
xNBN VDD VSS sn[0] s[1] BNN gate_nand_x1
xNRST VDD VSS sn[1] s[0] RSTN gate_nand_x1
xIRST VDD RSTN RST VSS gate_inv_x1
xISAM VDD SAMN SAM VSS gate_inv_x1
xNSAM VDD VSS sn[0] sn[1] SAMN gate_nand_x1
xS0 VDD s[0] sn[0] VSS gate_inv_x1
xS1 VDD s[1] sn[1] VSS gate_inv_x1
.ends

* expanding   symbol:  designs/sar_adc/dac/dac_sw_1state_A/xschem/dac_sw_1state_A.sym # of pins=6
** sym_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/dac/dac_sw_1state_A/xschem/dac_sw_1state_A.sym
** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/dac/dac_sw_1state_A/xschem/dac_sw_1state_A.sch
.subckt dac_sw_1state_A VDD VSS CLK VIN VOUT CLKN
*.PININFO VIN:B VOUT:B CLK:B CLKN:B VSS:B VDD:B
MSN VOUT CLK VIN VSS nfet_03v3 L=0.28u W=0.5u nf=1 m=4
MSP VIN CLKN VOUT VDD pfet_03v3 L=0.28u W=0.5u nf=1 m=4
.ends


* expanding   symbol:  designs/sar_adc/digital/gate_nand_x1/xschem/gate_nand_x1.sym # of pins=5
** sym_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/digital/gate_nand_x1/xschem/gate_nand_x1.sym
** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/digital/gate_nand_x1/xschem/gate_nand_x1.sch
.subckt gate_nand_x1 VDD VSS A B out
*.PININFO A:B B:B out:B VDD:B VSS:B
M5 out A VDD VDD pfet_03v3 L=0.28u W=0.5u nf=1
M6 out A net1 VSS nfet_03v3 L=0.28u W=0.5u nf=1
M7 out B VDD VDD pfet_03v3 L=0.28u W=0.5u nf=1
M8 net1 B VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1
.ends


* expanding   symbol:  designs/sar_adc/digital/gate_inv_x1/xschem/gate_inv_x1.sym # of pins=6
** sym_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/digital/gate_inv_x1/xschem/gate_inv_x1.sym
** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/digital/gate_inv_x1/xschem/gate_inv_x1.sch
.subckt gate_inv_x1 VDD in out VSS
*.PININFO out:O in:B VDD:B VSS:B
M1 out in VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1
M2 out in VDD VDD pfet_03v3 L=0.28u W=0.5u nf=1
.ends

